* /home/sranjith102001/desktop/ranji_esim/ranji_decade_counter/ranji_decade_counter.cir

.include NPN.lib
r1  net-_r1-pad1_ net-_c1-pad2_ 510
r2  net-_r1-pad1_ net-_c2-pad2_ 10k
r3  net-_r1-pad1_ net-_c1-pad1_ 10k
r4  net-_r1-pad1_ out 510
c1  net-_c1-pad1_ net-_c1-pad2_ 100u
c2  out net-_c2-pad2_ 100u
q2 out net-_c1-pad1_ gnd Q2N2222
q1 net-_c1-pad2_ net-_c2-pad2_ gnd Q2N2222
* u3  net-_u3-pad1_ out net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
* u4  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ o1 o2 o3 o4 dac_bridge_4
v1 net-_r1-pad1_ gnd  dc 12
v2  gnd net-_u3-pad1_ pulse(0 5 0 0 0 5 10)
* u1  ? plot_v1
* u5  o1 plot_v1
* u6  o2 plot_v1
* u7  o3 plot_v1
* u8  o4 plot_v1
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ranji_decadecounter
a1 [net-_u3-pad1_ out ] [net-_u2-pad1_ net-_u2-pad2_ ] u3
a2 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] [o1 o2 o3 o4 ] u4
a3 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u2
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             ranji_decadecounter, NgSpice Name: ranji_decadecounter
.model u2 ranji_decadecounter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.01e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(?)
plot v(o1)
plot v(o2)
plot v(o3)
plot v(o4)
.endc
.end
